US05451483
Preparation of Undecylenic Acid -Trimethylsilyl Ester:
To a 3-liter, 3-neck flask equipped with an addition funnel, mechanical stirrer and reflux condenser were added undecylenic acid (Lucidol, 480 grams, 2.6 mol), pyridine (240 grams, 3.03 mol) and toluene (900 milliliters). Trimethylsilyl chloride (326 grams, 3.0 mol) was then added slowly via the addition funnel over 2.5 hours. After stirring at 25° C. for 16 hours, the precipitate was filtered off and washed with toluene. The flitrates were combined and the toluene was removed using a rotary evaporator. The residue was distilled through a packed column under reduced pressure and four fractions were collected. A first cut was collected between 25° C. and 115° C. at 1 millimeter of mercury. A second cut was collected between 115° C. and 119° C. at 1 millimeter of mercury. The third cut, collected between 115° C. and 120° C. at 1 millimeter of mercury, was identified by infrared spectroscopy, and with 13C and 1H NMR spectrometries as the trimethylsilyl ester of undecylenic acid (320.4 grams). A fourth cut, collected between 115° C. and 121° C. at 1 millimeter of mercury, was a light-yellow oil. There was no evidence of free acid in fraction 3 using infrared spectroscopy. The carboxylic acid infrared absorption of undecylenic acid was found at 1,720 cm-1. The trimethylsilyl ester group absorbed at 1,640 cm-1.

reactant | undecylenic acid | 2.6 mol, 480 grams | C(CCCCCCCCC=C)(=O)O | C11H20O2
reactant | pyridine | 3.03 mol, 240 grams | N1=CC=CC=C1 | C5H5N
reactant | Trimethylsilyl chloride | 3.0 mol, 326 grams | C[Si](C)(C)Cl | C3H9ClSi
solvent | toluene | 900 milliliters | C1(=CC=CC=C1)C | C7H8
product | Undecylenic Acid -Trimethylsilyl Ester | C[Si](C)(C)OC(CCCCCCCCC=C)=O | C14H28O2Si
